US04173633
The solution of 0.84 g of 1-(2-oxopropyl)-9-methoxy-3-methyl-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepine hydrochloride, 1.28 ml of isopropylamine, 0.66 ml of 4.4 N methanolic hydrochloric acid and 0.17 g of sodium cyanoborohydride in 13 ml of methanol is refluxed overnight. Additional 0.085 g of sodium cyanoborohydride are added and the whole is again refluxed for 5 hours. The mixture is cooled, acidified to pH=1 with concentrated hydrochloric acid and the methanol evaporated. The aqueous solution is washed with diethyl ether, rendered basic to pH=10-11 with 3 N aqueous sodium hydroxide and extracted with diethyl ether. The ether extract is evaporated, the residue dissolved in acetone and 0.4 ml of 8 N ethanolic hydrochloric acid are added, to yield the 1-(2-isopropylaminopropyl)-9-methoxy-3-methyl-3,4,5,5 a,6,7-hexahydro-2H-naphth[1,2-d]azepine dihydrochloride melting at 257°-260° with decomposition.

reactant | 1-(2-oxopropyl)-9-methoxy-3-methyl-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepine hydrochloride | 0.84 g | Cl.O=C(CC=1CN(CCC2C1C1=CC=C(C=C1CC2)OC)C)C
reactant | isopropylamine | 1.28 ml | C(C)(C)N | C3H9N
reactant | hydrochloric acid | 4.4 N, 0.66 ml | Cl | ClH
reactant | sodium cyanoborohydride | 0.17 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 0.085 g | C(#N)[BH3-].[Na+]
solvent | methanol | 13 ml | CO | CH4O
product | 1-(2-isopropylaminopropyl)-9-methoxy-3-methyl-3,4,5,5 a,6,7-hexahydro-2H-naphth[1,2-d]azepine dihydrochloride | Cl.Cl.C(C)(C)NC(CC=1CN(CCC2C1C1=CC=C(C=C1CC2)OC)C)C | InChI=1S/C22H34N2O.2ClH/c1-15(2)23-16(3)12-19-14-24(4)11-10-17-6-7-18-13-20(25-5)8-9-21(18)22(17)19;;/h8-9,13,15-17,23H,6-7,10-12,14H2,1-5H3;2*1H
